US05236952
4.9 g of magnesium are suspended in 15 ml of absolute ethanol and, after adding 1 ml of carbon tetra-chloride, warmed until the reaction starts. A solution of 31.8 g of diethyl malonate in 19.9 ml of absolute ethanol and 80 ml of absolute toluene is then added dropwise while stirring so that the temperature lies between 50° and 60°. The reaction mixture is subsequently stirred at this temperature for an additional 1 hour, whereupon it is cooled to -5° and a solution of 49.3 g of 3,4-dimethoxy-5-nitrobenzoyl chloride (m.p. 82°-85°) in 300 ml of absolute toluene and 50 ml of absolute tetrahydrofuran is added dropwise so that the temperature does not exceed -5°. The mixture is subsequently stirred at room temperature overnight. After distillation of the solvent the residue is dissolved in 500 ml of ethyl acetate. The solution is treated while stirring and cooling with ice with an ice-cold solution of 12 ml of concentrated sulfuric acid in 80 ml of water. The organic phase is washed with sodium chloride solution, dried over magnesium sulfate and evaporated. The oil obtained is chromatographed on a ten-fold amount of silica gel with methylene chloride. The crystalline material obtained is recrystallized from isopropyl ether. There is obtained diethyl 3,4-dimethoxy-5-nitrobenzoylmalonate in the form of pale beige crystals of m.p. 70°.

reactant | magnesium | 4.9 g | [Mg] | Mg
reactant | carbon tetra-chloride | 1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | diethyl malonate | 31.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3,4-dimethoxy-5-nitrobenzoyl chloride | 49.3 g | COC=1C=C(C(=O)Cl)C=C(C1OC)[N+](=O)[O-] | C9H8ClNO5
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 19.9 ml | C(C)O | C2H6O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | diethyl 3,4-dimethoxy-5-nitrobenzoylmalonate | COC=1C=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C1OC)[N+](=O)[O-] | C16H19NO9
